US08623887B2
A-2a) benzyl 4-(4-chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-benzoate
10 g (44 mmol) benzyl 4-aminobenzoate are dissolved in 200 mL DMA, 8 mL Hünig base (0.97 eq) are added and 10.4 g (48.21 mmol) 2,4-dichloro-5-trifluoromethylpyrimidine, dissolved in 50 mL DMA, are added dropwise at RT to this solution. The reaction mixture is stirred at 60° C. overnight, then combined with 300 mL DCM and extracted with water (3 times 300 mL). The organic phase is dried and the solvent is eliminated in vacuo. The crude product is combined with 100 mL MeOH, digested and left to stand for 2 h. Then it is stirred for 10 min, the precipitate is filtered off and washed with MeOH. Finally the crude product is again suspended in MeOH, filtered off, washed with a little MeOH and dried in the vacuum dryer at 60° C. 8.5 g A-2a are obtained.

reactant | benzyl 4-aminobenzoate | 44 mmol, 10 g | NC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H13NO2
reactant | Hünig base | 8 mL, 0.97 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichloro-5-trifluoromethylpyrimidine | 48.21 mmol, 10.4 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DMA | 200 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 50 mL | CC(=O)N(C)C | C4H9NO
product | benzyl 4-(4-chloro-5-trifluoromethyl-pyrimidin-2-ylamino)-benzoate | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C19H13ClF3N3O2
